US08426369B2
(E)-4-(3,5-dimethoxystyryl)benzenethiol ARS27
To a solution of (E)-S-4-(3,5-dimethoxystyryl)phenyl dimethylcarbamothioate (50 mg, 0.14 mM) in ethyl ether (10 mL) was added LiAlH4 (6 mg, 0.14 mM) at 0° C. The reaction mixture was stirred at 65° C. for 3 h. The mixture was poured into water (10 mL) and a solution of 1M HCL (10 mL). The crude mixture was purified by column chromatography eluting with hexanes:ethyl acetate (4:1) and gave ARS27.

reactant | (E)-S-4-(3,5-dimethoxystyryl)phenyl dimethylcarbamothioate | 0.14 mM, 50 mg | CN(C(SC1=CC=C(C=C1)\C=C\C1=CC(=CC(=C1)OC)OC)=O)C | C19H21NO3S
reactant | LiAlH4 | 0.14 mM, 6 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 10 mL | O | H2O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | (E)-4-(3,5-dimethoxystyryl)benzenethiol | COC=1C=C(/C=C/C2=CC=C(C=C2)S)C=C(C1)OC | C16H16O2S
